US05162318
To a solution of N-(5-Chloro-2-nitrophenyl)-N',N'-dimethylethylenediamine (1.02 g) in ethyl acetate (10 ml) was added Raney nickel and the reaction mixture was stirred under a hydrogen atmosphere at atmospheric pressure at 5° C. for 1 hour. The reaction mixture was then filtered and the solvent was distilled off under reduced pressure. The residue was dissolved in dichloromethane (15 ml), followed by dropwise addition of triethylamine (1.28 g) and ethyl chloroformate (1.14 g) in turn at 5° C. with stirring. The reaction mixture was further stirred at room temperature for 1 hour and diluted with water (10 ml). The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent:chloroform:methanol=50:1) to give 1.05 g of N-(5-chloro-2-ethoxycarbonylaminophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine.

reactant | N-(5-Chloro-2-nitrophenyl)-N',N'-dimethylethylenediamine | 1.02 g | ClC=1C=CC(=C(C1)NCCN(C)C)[N+](=O)[O-] | C10H14ClN3O2
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
product | N-(5-chloro-2-ethoxycarbonylaminophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine | 1.05 g | ClC=1C=CC(=C(C1)N(CCN(C)C)C(=O)OCC)NC(=O)OCC | C16H24ClN3O4
